US09278951B2
Synthesis of 3-(4-hydroxybenzyl)-1-methyl-imidazolium iodide
4,5-Dichloroimidazole (0.1 mol) and 4-hydroxybenzyl alcohol (0.1 mol) were combined and heated to 155° C. The crude product was washed with cold ethanol and recrystallized in an EtOH/DMF mixture. This powder (3-(4-hydroxybenzyl)-4,5-dichloroimidazole, 8.23 mmol) was then was dissolved in DMF (3 mL). Iodomethane (72.3 mmol) was added to the reaction mixture and refluxed for 24 hours at 80° C. The solvent was evaporated and remaining oil was washed using ethyl ether to yield a brown precipitate. Yield: 1.28 g, 61%. 1H NMR (300 MHz, DMSO-d6) 3.81 (3H, s, CH3N), 5.34 (2H, CH2), 6.82 (2H, d, Ar), 7.26 (2H, d, Ar), 9.32 (1H, s, NCHN), 9.70 (1H, s, OH).

reactant | 4,5-Dichloroimidazole | 0.1 mol | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | 4-hydroxybenzyl alcohol | 0.1 mol | OC1=CC=C(CO)C=C1 | C7H8O2
reactant | Iodomethane | 72.3 mmol | IC | CH3I
product | 3-(4-hydroxybenzyl)-1-methyl-imidazolium iodide | [I-].OC1=CC=C(CN2C=[N+](C=C2)C)C=C1 | InChI=1S/C11H12N2O.HI/c1-12-6-7-13(9-12)8-10-2-4-11(14)5-3-10;/h2-7,9H,8H2,1H3;1H
